US05824691
4N-Hydrogen chloride-dioxane (3.0 ml) was added to a mixture of 2-[3-(1H-tetrazol-1-yl)benzoyl]guanidine (1.4 g) in methanol (30 ml) and the mixture was stirred for 1 hour at ambient temperature. To the mixture was added diisopropyl ether (30 ml) and the precipitate was collected by filtration. The precipitate was recrystallized from methanol to give 2-[3-(1H-tetrazol-1-yl)benzoyl]guanidine hydrochloride (1.05 g).

reactant | Hydrogen chloride dioxane | 3.0 ml | Cl.O1CCOCC1
reactant | 2-[3-(1H-tetrazol-1-yl)benzoyl]guanidine | 1.4 g | N1(N=NN=C1)C=1C=C(C(=O)N=C(N)N)C=CC1 | C9H9N7O
reactant | diisopropyl ether | 30 ml | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 30 ml | CO | CH4O
product | 2-[3-(1H-tetrazol-1-yl)benzoyl]guanidine hydrochloride | 1.05 g | Cl.N1(N=NN=C1)C=1C=C(C(=O)N=C(N)N)C=CC1 | InChI=1S/C9H9N7O.ClH/c10-9(11)13-8(17)6-2-1-3-7(4-6)16-5-12-14-15-16;/h1-5H,(H4,10,11,13,17);1H
